US08669266B2
(v) 4-{(S)-4-tert-Butoxycarbonyl-2-[(4-hydroxy-7-methyl-quinoline-2-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid ethyl ester
To a solution of 4 g of 4-Hydroxy-7-methyl-quinoline-2-carboxylic acid and 6.7 g of 4-((S)-2-Amino-4-tert-butoxycarbonyl-butyryl)-piperazine-1-carboxylic acid ethyl ester in 40 ml of DMF, 3 g of HOBT and 3.7 g of EDC was added and the reaction mixture was stirred for 2 h at RT. Then, the reaction mixture was diluted with water and extracted with DCM. The organic phase was dried over MgSO4 and the solvents were removed under reduced pressure. The crude product was purified by chromatography on silica gel eluting with a gradient of n-heptane/ethyl acetate. The fractions containing the product were combined and the solvent evaporated under reduced pressure. Yield: 9.4 g.

reactant | 4-Hydroxy-7-methyl-quinoline-2-carboxylic acid | 4 g | OC1=CC(=NC2=CC(=CC=C12)C)C(=O)O | C11H9NO3
reactant | 4-((S)-2-Amino-4-tert-butoxycarbonyl-butyryl)-piperazine-1-carboxylic acid ethyl ester | 6.7 g | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)N)=O | C16H29N3O5
reactant | HOBT | 3 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 3.7 g
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-{(S)-4-tert-Butoxycarbonyl-2-[(4-hydroxy-7-methyl-quinoline-2-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NC2=CC(=CC=C2C(=C1)O)C)=O | C27H36N4O7
